US04598077
To 9.8 g of 4-methoxy-3-methylbenzonitrile, were added 150 ml of carbon tetrachloride, 10 g of NBS, and 0.4 g of BPO. The mixture was heated under reflux for 2.5 hours. The reaction mixture was cooled in ice, filtered from insolubles and concentrated under reduced pressure. The residue was admixed with n-hexane, stirred for 30 minutes, and collected by filtration to yield 9 g of 3-bromomethyl-4-methoxybenzonitrile; m.p. 102°-103° C.

reactant | 4-methoxy-3-methylbenzonitrile | 9.8 g | COC1=C(C=C(C#N)C=C1)C | C9H9NO
reactant | NBS | 10 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-4-methoxybenzonitrile | 9 g | BrCC=1C=C(C#N)C=CC1OC | C9H8BrNO
